US05599814
d. Methyl 2-amino-4-iodobenzoate
To a stirred solution of sodium hydroxide (0.048 g, 1.2 mM) in methanol (4.5 mL) was added 7-iodo-2H-3,1-benzoxazine-2,4(1H)-dione (2.6 g, 9.0 mM). The mixture was heated at 60° C. for 7 hr and the resulting solution was cooled, poured into water and extracted with ethyl acetate. The combined extracts were washed once with dilute sodium hydroxide, dried (MgSO4), filtered and concentrated to leave the title compound (2.0 g, 80%) as a brown oil which slowly crystallized; MS(CI): 278 (M+H).

reactant | sodium hydroxide | 1.2 mM, 0.048 g | [OH-].[Na+]
reactant | 7-iodo-2H-3,1-benzoxazine-2,4(1H)-dione | 9.0 mM, 2.6 g | IC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4INO3
reactant | water | O | H2O
solvent | methanol | 4.5 mL | CO | CH4O
product | Methyl 2-amino-4-iodobenzoate | 2.0 g, 80% | NC1=C(C(=O)OC)C=CC(=C1)I | C8H8INO2
